US08937087B2
To a mixture of 4-ethoxy-2-nitroaniline (963 mg) and THF/EtOH (1/1, 10 mL) was added 10% Pd/C (281 mg), followed by stirring at room temperature for 3 hours under a hydrogen atmosphere. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to obtain 4-ethoxybenzene-1,2-diamine.

reactant | 4-ethoxy-2-nitroaniline | 963 mg | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
catalyst | Pd/C | 281 mg | [Pd] | Pd
solvent | THF EtOH | 10 mL | C1CCOC1.CCO
product | 4-ethoxybenzene-1,2-diamine | C(C)OC=1C=C(C(=CC1)N)N | C8H12N2O
